US07067506B2
Step 3: 1-{4-[(Benzyl-methyl-amino)-methyl]-2-methoxy-phenyl}-3-(5-methyl-pyrazin-2-yl)-urea.
In a 50 mL round bottom flask, 5-methylpyrazine-2-carboxylic acid (250 mg, 1.8 mmol) and diisopropylethylamine (330 μL, 1.9 mmol) in 20 mL toluene, was stirred under a nitrogen atmosphere until the acid dissolved. Diphenylphosphoryl azide (523 mg, 1.9 mmol) was added and the solution was heated to 90° C. After 20 minutes, nitrogen evolution had subsided, and the solution had darkened to a caramel color. The reaction was cooled to 65° C., and 4-[(benzyl-methyl-amino)-methyl]-2-methoxy-phenylamine (486 mg, 1.9 mmol) was added as a solution in 5 mL toluene. The reaction was allowed to stir at 65° C. for 6 h, and was then cooled to room temperature, diluted with 30 mL EtOAc, and washed with 15 mL 5% NH4OH. The aqueous phase was extracted with EtOAc (2×20 mL) and the combined organics were washed with 30 mL brine, dried over MgSO4, filtered, and concentrated. The resulting residue was purified by flash chromatography to give 285 mg (40%) of the desired product, which was further purified by trituration with diethyl ether. Mp=142-143° C. 1H NMR (400 MHz, CDCl3): δ11.33 (s, 1H), 9.51 (s, 1H), 8.41 (s, 1H), 8.27 (d, J=8.61 Hz, 1H), 8.08 (s, 1H), 7.2-7.4 (m, 5H), 6.96 (d, J=7.83 Hz, 1H) 3.97 (s, 3H), 3.53 (s, 4H), 2.53 (s, 3H), 2.22 (s, 1H). 13C NMR (400 MHz, CDCl3): δ153.70, 149.03, 147.48, 147.4, 145.99, 138.73, 137.38, 134.81, 129.19, 128.42, 127.16, 121.89, 119.81, 111.05, 104.49, 94.98, 87.22, 61.81, 56.37, 42.5. MS (APCI-pos)M+1=392.0.

reactant | 5-methylpyrazine-2-carboxylic acid | 1.8 mmol, 250 mg | CC=1N=CC(=NC1)C(=O)O | C6H6N2O2
reactant | diisopropylethylamine | 1.9 mmol, 330 μL | C(C)(C)N(CC)C(C)C | C8H19N
reactant | Diphenylphosphoryl azide | 1.9 mmol, 523 mg | C1(=CC=CC=C1)P(=O)(C1=CC=CC=C1)N=[N+]=[N-] | C12H10N3OP
reactant | 4-[(benzyl-methyl-amino)-methyl]-2-methoxy-phenylamine | 1.9 mmol, 486 mg | C(C1=CC=CC=C1)N(C)CC1=CC(=C(C=C1)N)OC | C16H20N2O
solvent | toluene | 20 mL | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 5 mL | C1(=CC=CC=C1)C | C7H8
solvent | EtOAc | 30 mL | CCOC(=O)C | C4H8O2
product | 1-{4-[(Benzyl-methyl-amino)-methyl]-2-methoxy-phenyl}-3-(5-methyl-pyrazin-2-yl)-urea | 285 mg, 40% | C(C1=CC=CC=C1)N(C)CC1=CC(=C(C=C1)NC(=O)NC1=NC=C(N=C1)C)OC | C22H25N5O2
